US05204333
2-(3,4-Difluorophenyl)-2-(4-methoxybenzyloxymethyl)propane-1,3-diol (16.5 g, 50 mmol), acetone (7.5 ml) and p-toluene sulphonic acid (100 mg) were heated to reflux in benzene (100 ml) and water was removed using Dean and Stark apparatus. After refluxing overnight the cooled solution was washed with saturated aqueous sodium bicarbonate solution and was dried over anhydrous magnesium sulphate. Evaporation gave 2,2-dimethyl-5-(3,4-difluorophenyl)-5-(4-methoxybenzyloxymethyl)-1,3-dioxane as a yellow oil (17.7 g, 97%, Nmr δ 7.2-6.8 (7H,m), 4.4 (2H,s), 4.05 (2H,d), 3.95 (2H,d), 3.8 (3H, s), 3.7 (2H,s), 1.4 (6H,s).

reactant | 2-(3,4-Difluorophenyl)-2-(4-methoxybenzyloxymethyl)propane-1,3-diol | 50 mmol, 16.5 g | FC=1C=C(C=CC1F)C(CO)(CO)COCC1=CC=C(C=C1)OC | C18H20F2O4
reactant | acetone | 7.5 ml | CC(=O)C | C3H6O
reactant | p-toluene sulphonic acid | 100 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 2,2-dimethyl-5-(3,4-difluorophenyl)-5-(4-methoxybenzyloxymethyl)-1,3-dioxane | CC1(OCC(CO1)(COCC1=CC=C(C=C1)OC)C1=CC(=C(C=C1)F)F)C | C21H24F2O4
